US07220862B2
3-(1-Benzylpiperidin-4-yl)-8-fluoro-3,4-dihydroquinazolin-2(1H)-one
To a solution of N-(2-amino-3-fluorobenzyl)-1-benzylpiperidin-4-amine (36.3 g, 116 mmol) in tetrahydrofuran (600 mL) at room temperature was added carbonyl diimidazole (20.7 g, 1.10 equiv.) in one portion. The reaction was stirred at room temperature for 3 h, heated at reflux for 30 min, and concentrated. The resulting solid was dissolved in 1:1 diethyl ether/ethyl acetate, washed with water (3×), then brine, dried over magnesium sulfate, and concentrated to give the crude product as a wet, yellow solid. The solid was triturated with diethyl ether and filtered to give 30.0 g (76%) as a white powder. 1H-NMR (CDCl3, 500 MHz) δ 1.68 (m, 2H), 1.86 (dddd, J=11.9, 11.9, 11.9, 3.4, 2H), 2.14 (dd, J=11.6, 10.1, 2H), 2.98 (d, J=11.6, 2H), 3.51 (s, 2H), 4.34–4.44 (m, 3H), 6.71 (bs, 1H), 6.79–6.89 (m, 2H), 6.94 (dd, J=9.2, 9.2, 1H), 7.21–7.34 (m, 5H). Mass spec.: 340.30 (MH)+.

reactant | N-(2-amino-3-fluorobenzyl)-1-benzylpiperidin-4-amine | 116 mmol, 36.3 g | NC1=C(CNC2CCN(CC2)CC2=CC=CC=C2)C=CC=C1F | C19H24FN3
reactant | carbonyl diimidazole | 20.7 g, 1.10 equiv. | C(=O)(C=1NC=CN1)C=1NC=CN1 | C7H6N4O
solvent | tetrahydrofuran | 600 mL | O1CCCC1 | C4H8O
product | 3-(1-Benzylpiperidin-4-yl)-8-fluoro-3,4-dihydroquinazolin-2(1H)-one | C(C1=CC=CC=C1)N1CCC(CC1)N1C(NC2=C(C=CC=C2C1)F)=O | C20H22FN3O
